US05338856
Preparation of 1-(4-Fluorophenyl)-2-(2-trifluoromethyl-5-thiazolyl)ethanone
A solution of 2.4M n-butyl lithium in hexane (6.4 mL, 15.4 mmol) was added to a solution of 2.15 mL (15.4 mmol) of diisopropylamine in 50 mL of dry tetrahydrofuran at -10° C. under nitrogen with stirring over a 2-min period. The resulting solution was cooled to -70° C. and a solution containing 3.18 g (14 mmol) of 2-(trimethylsilyloxy)-2-(4'-fluorophenyl)acetonitrile in 3 mL of dry tetrahydrofuran was added dropwise by means of a syringe pump over a 20-min period under nitrogen with stirring. The resulting bright yellow solution was stirred for an additional 30 min at -70° C. or below and then a solution of 2.92 g (11.9 mmol) of 5-bromomethyl-2-trifluoromethylthiazole in 5 mL of dry tetrahydrofuran was added over 30 min under nitrogen with stirring to obtain a dark, thick slurry. After a 45-min reaction period this mixture was allowed to warm and was poured into a rapidly stirred mixture consisting of 25 mL of 10 percent aqueous hydrochloric acid and 10 mL of methanol. Aqueous hydrofluoric acid (0.5 mL of 48 percent) was then added and the mixture was stirred until all of the trimethylsilane protecting group was removed. Sufficient 10 percent aqueous sodium hydroxide was added with stirring to adjust the pH to about 10 and after 15 min the phases were separated. The aqueous phase was extracted with 2×30 mL of ether and the combined organic phases were washed with 50 mL of 10 percent aqueous hydrochloric acid and 50 mL of saturated aqueous sodium chloride, dried over magnesium sulfate, and concentrated by evaporation under reduced pressure. The residue was kugelrohr distilled, first at 70° C. and 0.05 torr (6.7 Pa (Pascals)) to remove 4-fluorobenzaldehyde and then at 100°-110° C. and 0.05 torr (6.7 Pa) to distill 2.93 g (85 percent of theory) of the title compound, which was obtained as a waxy yellow solid of 95 percent purity (by gas liquid chromatography). An analytical sample obtained by crystallization from a mixture of hexane and acetone melted at 66.5°-68.5° C.

reactant | n-butyl lithium | 2.4M | C(CCC)[Li]
reactant | diisopropylamine | 15.4 mmol, 2.15 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-(trimethylsilyloxy)-2-(4'-fluorophenyl)acetonitrile | 14 mmol, 3.18 g | C[Si](OC(C#N)C1=CC=C(C=C1)F)(C)C | C11H14FNOSi
reactant | 5-bromomethyl-2-trifluoromethylthiazole | 11.9 mmol, 2.92 g | BrCC1=CN=C(S1)C(F)(F)F | C5H3BrF3NS
reactant | hydrochloric acid | 25 mL | Cl | ClH
reactant | hydrofluoric acid | 0.5 mL | F | FH
reactant | trimethylsilane | C[SiH](C)C | C3H10Si
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
solvent | hexane | CCCCCC | C6H14
solvent | methanol | 10 mL | CO | CH4O
solvent | hexane | 15.4 mmol, 6.4 mL | CCCCCC | C6H14
product | 1-(4-Fluorophenyl)-2-(2-trifluoromethyl-5-thiazolyl)ethanone | FC1=CC=C(C=C1)C(CC1=CN=C(S1)C(F)(F)F)=O | C12H7F4NOS
